US05028604
Colorless crystals of 1-[3-(2-indenylacetyl)-L-thioprolyl]pyrrolidine were prepared in the same manner as in Example 1, except that 3-(2-indenylacetyl)-L-thioproline prepared in Reference Example 19 and pyrrolidine were used instead of 3-(2-indanylacetyl)-L-thioproline and thiazolidine, respectively (yield: 44%).

reactant | 3-(2-indenylacetyl)-L-thioproline | C1(C=CC2=CC=CC=C12)CC(=O)C1[C@H](NCS1)C(=O)O | C15H15NO3S
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | 3-(2-indanylacetyl)-L-thioproline | C1(CCC2=CC=CC=C12)CC(=O)C1[C@H](NCS1)C(=O)O | C15H17NO3S
reactant | thiazolidine | S1CNCC1 | C3H7NS
product | 1-[3-(2-indenylacetyl)-L-thioprolyl]pyrrolidine | yield: 44% | C1(C=CC2=CC=CC=C12)CC(=O)C1[C@H](NCS1)C(=O)N1CCCC1 | C19H22N2O2S
